US09290439B2
Diethyl 2-((R)-1-(1-naphthyl)ethylamino)vinylphosphonate (Step 2)
A 1-litre, four-necked flask equipped with a mechanical stirrer, an addition funnel and a nitrogen inlet was charged with diethyl formylmethylphosphonate (100 g) and ethanol (500 mL). Under a nitrogen atmosphere, the resulting mixture was cooled to 10° C. and (R)-1-(1-naphthyl)ethylamine (85.6 g) was added under stirring. The mixture was left under stirring for an additional hour. The solvent was distilled from this mixture under reduced pressure. The resulting residue (180 g) was used in the next step without additional purification.

reactant | diethyl formylmethylphosphonate | 100 g | C(=O)CP(OCC)(OCC)=O | C6H13O4P
reactant | (R)-1-(1-naphthyl)ethylamine | 85.6 g | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N | C12H13N
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | Diethyl 2-((R)-1-(1-naphthyl)ethylamino)vinylphosphonate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC=CP(OCC)(OCC)=O | C18H24NO3P
